US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-2-(S)-methyl-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Chlorophenyl)-3-(S)-methylpiperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (CDCl3, 300 MHz) 7.25 (d 2H), 6.83 (d, 2H), 4.91 (m, 3H), 4.28 (m, 1H), 3.80–3.10 (m, 4H), 2.86 (m, 1H), 2.71 (m, 1H), 2.29 (s, 3H), 1.40 (m, 3H) ppm; MS (ES) M+H expected=435.1, found=435.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Chlorophenyl)-3-(S)-methylpiperazine | ClC1=CC=C(C=C1)N1C[C@@H](NCC1)C | C11H15ClN2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-2-(S)-methyl-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1[C@H](CN(CC1)C1=CC=C(C=C1)Cl)C)C(F)(F)F | C18H19Cl2F3N4O
